US07427612B2
1-{4-[4-(5-Bromo-2-morpholin-4-yl-benzoyl)-piperazin-1-yl]-3-fluoro-phenyl}-ethanone
The title compound was prepared according to the procedure described for example 46 from 5-Bromo-2-morpholin-4-yl-benzoyl chloride and 1-(3-Fluoro-4-piperazin-1-yl-phenyl)-ethanone (94%, yellow foam, MS (m/e): 490.3 (M+, 100%)

reactant | 5-Bromo-2-morpholin-4-yl-benzoyl chloride | BrC=1C=CC(=C(C(=O)Cl)C1)N1CCOCC1 | C11H11BrClNO2
reactant | 1-(3-Fluoro-4-piperazin-1-yl-phenyl)-ethanone | FC=1C=C(C=CC1N1CCNCC1)C(C)=O | C12H15FN2O
product | 1-{4-[4-(5-Bromo-2-morpholin-4-yl-benzoyl)-piperazin-1-yl]-3-fluoro-phenyl}-ethanone | BrC=1C=CC(=C(C(=O)N2CCN(CC2)C2=C(C=C(C=C2)C(C)=O)F)C1)N1CCOCC1 | C23H25BrFN3O3
